US03950393
13 gm of N-ethyl-2-amino-3-bromo-5-carbethoxy-N-cyclohexyl-benzylamine were boiled with 100 ml of 6 N hydrochloric acid for 1 hour. Subsequently, the supernatant liquid was decanted from the oily phase which had formed at the bottom, and the solution was evaporated to dryness. The residue was recrystallized from methanol, yielding N-ethyl-2-amino-3-bromo-5-carboxy-N-cyclohexyl-benzylamine hydrochloride, m.p. 227°-229°C.

reactant | N-ethyl-2-amino-3-bromo-5-carbethoxy-N-cyclohexyl-benzylamine | 13 gm | C(C)N(C1CCCCC1)CC1=C(C(=CC(=C1)C(=O)OCC)Br)N | C18H27BrN2O2
reactant | hydrochloric acid | 6 N, 100 ml | Cl | ClH
product | N-ethyl-2-amino-3-bromo-5-carboxy-N-cyclohexyl-benzylamine hydrochloride | Cl.C(C)N(C1CCCCC1)CC1=C(C(=CC(=C1)C(=O)O)Br)N | InChI=1S/C16H23BrN2O2.ClH/c1-2-19(13-6-4-3-5-7-13)10-12-8-11(16(20)21)9-14(17)15(12)18;/h8-9,13H,2-7,10,18H2,1H3,(H,20,21);1H
